US04086355
4,4-diethoxycyclohexanone
Into a flask are successively added 38.7 g of ethyl 5,5-diethoxy-2-oxocyclohexane carboxylate and 215 ml of a 10% potassium hydroxide solution. The mixture is refluxed for 16 hours, then cooled to room temperature. The organic phase is extracted twice with ether; the aqueous solution is salted out with potassium carbonate and an oily phase separates which is extracted with ether. The ethereal phases are united, dried over potassium carbonate and evaporated to dryness. The crude residue weighing 26.4 g is purified by distillation under reduced pressure. The yield amounts to 22.3 g of a liquid boiling at 110°-112° under 12 mm Hg -- nD22 = 1.449.

reactant | ethyl 5,5-diethoxy-2-oxocyclohexane carboxylate | 38.7 g | C(C)OC1(CCC(C(C1)C(=O)OCC)=O)OCC | C13H22O5
reactant | potassium hydroxide | [OH-].[K+]
product | 4,4-diethoxycyclohexanone | C(C)OC1(CCC(CC1)=O)OCC | C10H18O3
